US07384967B2
3-(2-{-2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl amino)-propionic acid
1-[4-(amino-ethyl)-thiazol-2-yl]-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (0.03 g, 0.08 mmol) and succinic anhydride (0.02 g, 0.16 mmol) in 10 mL DCM were refluxed for 2 h. Reaction was concentrated and purified on silica gel using 5% MeOH/EtOAc to yield the pure product (20 mg, 53%).

reactant | 1-[4-(amino-ethyl)-thiazol-2-yl]-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 0.08 mmol, 0.03 g | NCCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C19H24N4O2S
reactant | succinic anhydride | 0.16 mmol, 0.02 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-{-2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl amino)-propionic acid | 20 mg, 53% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CCNCCC(=O)O)=O | C22H28N4O4S
